US05101015
Trifluoroacetic anhydride (1.0 ml, 7.08 mmol) was added dropwise to a stirred suspension of alpha-methyl-d,l-phenylalanine (100 mg, 0.56 mmol) in pyridine at 0° C. The solids gradually dissolved, and the solution turned pale yellow. After 20 minutes of additional stirring, the cooling bath was removed and stirring was continued for an additional one hour. The solution was then poured over ice, acidified with 2N HCl (10 ml) and extracted with two 15-milliliter portions of ethyl acetate. The combined organic extracts were washed with brine and dried over sodium sulfate. Evaporation in vacuo yielded 150 milligrams of N-trifluoroacetyl-alpha-methyl-d,l-phenylalanine.

reactant | Trifluoroacetic anhydride | 7.08 mmol, 1.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | alpha-methyl-d,l-phenylalanine | 0.56 mmol, 100 mg | CC(N)(CC1=CC=CC=C1)C(=O)O | C10H13NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-trifluoroacetyl-alpha-methyl-d,l-phenylalanine | 150 milligrams | FC(C(=O)NC(CC1=CC=CC=C1)(C(=O)O)C)(F)F | C12H12F3NO3
